US05650428
The procedure described in Example 79 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide (100 mg) was reacted with imidazole to obtain the desired (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(1H-imidazol-1-yl)propanamide (19.9 mg) together with a less polar by-product. The by-product was not investigated further.

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide | 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)COS(=O)(=O)C | C19H21ClN2O8S2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-(1H-imidazol-1-yl)propanamide | 19.9 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)CN1C=NC=C1 | C21H21ClN4O5S
